US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[3,5-BIS(BENZYLOXY)BENZYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 3,5-bis-benzyloxy benzaldehyde. MS (ESI) m/z 681.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 3,5-bis-benzyloxy benzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)OCC1=CC=CC=C1 | C21H18O3
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[3,5-BIS(BENZYLOXY)BENZYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(F)(F)F | C44H35F3N2O2
